US07994163B2
Dissolve 1,2-dimethyl-1H-imidazole-4-thiol (450 mg, 1.8 mmol, prepared as described in J. Heterocyclic Chem. 1998, 35, 141) in anhydrous DMF (3 mL). Add sodium hydride (55 mg, 1.4 mmol, 60% dispersion in mineral oil) portionwise over 2 min at room temperature under a nitrogen atmosphere. Stir the yellow solution for 5 min, then add a solution of 3-tert-butoxycarbonyl-7-chloro-6-chloromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine (300 mg, 0.9 mmol) in anhydrous DMF (3 mL) at room temperature over 2 min. Heat the mixture at 45° C. for 16 h under a nitrogen atmosphere. Cool the mixture to room temperature and quench with 10% aqueous sodium chloride (10 mL). Extract the mixture with EtOAc (2×30 mL). Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo. Purify the residue by chromatography on silica gel eluting with hexane/EtOAc (7:3 to 1:1 gradient) to obtain 3-tert-butoxycarbonyl-7-chloro-6-(1,2-dimethyl-1H-imidazol-4-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (160 mg, 42%). MS (ES+) m/z: 422.0 (M+H)+.

reactant | 1,2-dimethyl-1H-imidazole-4-thiol | 1.8 mmol, 450 mg | CN1C(=NC(=C1)S)C | C5H8N2S
reactant | sodium hydride | 1.4 mmol, 55 mg | [H-].[Na+]
reactant | 3-tert-butoxycarbonyl-7-chloro-6-chloromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.9 mmol, 300 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CCl | C16H21Cl2NO2
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-tert-butoxycarbonyl-7-chloro-6-(1,2-dimethyl-1H-imidazol-4-ylthiomethyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 160 mg, 42% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)C(C)SC=2N=C(NC2)C | C21H28ClN3O2S
